US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 8 using 5-(benzyloxycarbonylamino)-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid methyl ester (3.50 g) and 1N aqueous sodium hydroxide solution (20 ml), the objective 5-(benzyloxycarbonylamino)-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid (2.79 g) was obtained as colorless crystals.

reactant | 5-(benzyloxycarbonylamino)-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid methyl ester | 3.50 g | COC(=O)C1=CC=2CCCC(C2C=C1)NC(=O)OCC1=CC=CC=C1 | C20H21NO4
solvent | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
product | 5-(benzyloxycarbonylamino)-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid | 2.79 g | C(C1=CC=CC=C1)OC(=O)NC1C=2C=CC(=CC2CCC1)C(=O)O | C19H19NO4
